US04260623
Utilizing the procedure described in Example 1 above, 11 g of alpha-(3-fluorophenyl)-2-piperidinemethanol is reacted with 10 g of N-benzyl-4-piperidone to obtain hexahydro-1'-benzyl-1-(3-fluorophenyl)spiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine]; mp 113°-115° C. after recrystallizaton from petroleum ether.

reactant | alpha-(3-fluorophenyl)-2-piperidinemethanol | 11 g | FC=1C=C(C=CC1)C(O)C1NCCCC1 | C12H16FNO
reactant | N-benzyl-4-piperidone | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | hexahydro-1'-benzyl-1-(3-fluorophenyl)spiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1N2CCCC1)C1=CC(=CC=C1)F | C24H29FN2O
